Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:12]([H:13])([H:14])[H:15],3.79094255085
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8].[O:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],-1.671066791
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:9][H:10])=[C:11]([H:12])[H:13].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-1.5058614949
[H:1][O:2]/[C:3](=[C:4]\[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.80936982649
[C:1]#[C:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6][C:7]([H:8])([H:9])[H:10],3.4835491703199994
[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]1[C:2][C:3]1[H:4]>>[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.70185444823
[H:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[C:5][C:6]([H:7])[C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],0.0536397123205
[H:1][C:2][O:3][C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]#[C:5][H:6].[O:7]=[C:8]([H:9])[H:10],-1.38826984714
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:2],7.222217200580001
[C:4]([H:5])([H:6])=[C:7]([O:8][H:9])[O:10][H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[O:10][H:11],-3.2331647942000004
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:15].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],4.97510630123
[O:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1],8.14585494333
[C:5]#[C:6][O:7][C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],-1.28682734705
[O:1][O:2][C:3]([C:4]([H:5])=[C:6][H:7])=[C:8]([H:9])[H:10]>>[H:7].[O:1][O:2][C:3]([C:4]([H:5])=[C:6])=[C:8]([H:9])[H:10],4.07766873616
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[H:1][C:2]#[C:3][O:4],1.68542823972
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2](=[O:3])[C:11]([H:12])([H:13])[H:14],0.6048162700190001
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],3.5191056140199994
[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],0.269939554921
[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2],-1.57706268176
[H:1]/[C:2](=[C:3]([H:4])\[C:5]([H:6])=[C:8]\[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.38606477637
[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-7.588626060469999
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1][O:2][C:3],5.079368021640001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:4],3.70040745024
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7].[C:8](=[O:9])[H:10]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8](=[O:9])[H:10],-2.61951532352
[H:12].[O:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1[H:11]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-4.1150362660500015
[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.66333038109
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[O:12][H:13].[H:9],2.03639450487
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:5],1.5864940522
